US05000775
Ethyl 2-(1-adamantanylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 4, 11.6 g (60 mmol) of adamantyl urea was reacted with 10.9 g (50 mmol) of ethyl 2-chloro-4,4,4-trifluoroacetoacetate at 140°-150° C. for 24 hours. The product was separated and then recrystallized from methylcyclohexane to yield 7.0 g of a white solid product (m.p.=109°-111° C.) identified in Table I.

reactant | adamantyl urea | 60 mmol, 11.6 g | C12(CC3CC(CC(C1)C3)C2)NC(=O)N | C11H18N2O
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 50 mmol, 10.9 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
product | Ethyl 2-(1-adamantanylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 7.0 g | C12(CC3CC(CC(C1)C3)C2)NC=2OC(=C(N2)C(F)(F)F)C(=O)OCC | C17H21F3N2O3
